US05389640
2-Ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline
3-Amino-4-(phenylmethylamino)quinoline (4 g, 16 mmol) was combined with ethoxyacetic acid (4.5 mL, 48 mmol) and heated at 120° C. for about 3 hours. The reaction mixture was cooled to room temperature, diluted with water and then made basic with ammonium hydroxide. The resulting precipitate was collected to provide 5.3 g of the desired product as a solid. The structure was confirmed by nuclear magnetic resonance spectroscopy.

reactant | 3-Amino-4-(phenylmethylamino)quinoline | 16 mmol, 4 g | NC=1C=NC2=CC=CC=C2C1NCC1=CC=CC=C1 | C16H15N3
reactant | ethoxyacetic acid | 48 mmol, 4.5 mL | C(C)OCC(=O)O | C4H8O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
product | 2-Ethoxymethyl-1-phenylmethyl-1H-imidazo[4,5-c]quinoline | 5.3 g | C(C)OCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC1=CC=CC=C1 | C20H19N3O
